US05556860
Synthesis of 3-[2-(diethylamino)ethyl]-6-nitro-4-phenyl-3,4-dihydro-2(1H)-quinazolinone
In similar way as in Preparation Example 1, the title compound was synthesized from 5-nitro-2-trichloroacetylaminobenzophenone and 2-(diethylamino)ethylamine.

reactant | 5-nitro-2-trichloroacetylaminobenzophenone | [N+](=O)([O-])C=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)NC(C(Cl)(Cl)Cl)=O | C15H9Cl3N2O4
reactant | 2-(diethylamino)ethylamine | C(C)N(CCN)CC | C6H16N2
product | 3-[2-(diethylamino)ethyl]-6-nitro-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | C(C)N(CCN1C(NC2=CC=C(C=C2C1C1=CC=CC=C1)[N+](=O)[O-])=O)CC | C20H24N4O3
